US09061998B2
Intermediate 7: Ethyl 2-(3,5-dimethyl-1H-pyrazol-1-yl)acetate
A mixture of 3,5-dimethyl-1H-pyrazole (Aldrich, 10 g, 104 mmol), K2CO3 (43.1 g, 312 mmol), and ethyl 2-bromoacetate (12.69 mL, 114 mmol) in acetone (100 mL) was refluxed overnight. The salts were removed by filtration and the filtrate was evaporated under reduced pressure. The residue was dissolved in diethyl ether and the organic phase was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The oily residue was dissolved in hot hexane and the insoluble material was filtered and discarded. The filtrate was cooled at 0° C. and the precipitate obtained was filtered and dried to give the title compound ethyl 2-(3,5-dimethyl-1H-pyrazol-1-yl)acetate (8 g, 43.9 mmol, 42.2% yield) as a gum. 1H NMR: (CDCl3-d6, 300 MHz) δ 5.82 (s, 1H), 4.72 (s, 2H), 4.18 (q, 2H), 2.18 (s, 3H), 2.17 (s, 3H), 1.24 (t, J=7.1 Hz, 3H).

reactant | 3,5-dimethyl-1H-pyrazole | 104 mmol, 10 g | CC1=NNC(=C1)C | C5H8N2
reactant | K2CO3 | 312 mmol, 43.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromoacetate | 114 mmol, 12.69 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | ethyl 2-(3,5-dimethyl-1H-pyrazol-1-yl)acetate | 43.9 mmol, 8 g, 42.2% yield | CC1=NN(C(=C1)C)CC(=O)OCC | C9H14N2O2
